US03963750
A vigorously stirred mixture of 2-amino-5-(4-fluorophenyl)- 3-thiophenecarboxamide (0.01 mole) and pyridine (20 ml) at 0° was treated dropwise with acetyl chloride (0.011 mole). The resulting solution was stirred a further 30 minutes at 0° and then poured on to cold water. The precipitate was collected by filtration, washed with water and dried. Recrystallisation from ethanol yielded 2-acetamido-5-(4-fluorophenyl)- 3-thiophenecarboxamide (90°/o, m.p. 230°-3°).

reactant | 2-amino-5-(4-fluorophenyl)- 3-thiophenecarboxamide | 0.01 mole | NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)F | C11H9FN2OS
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.011 mole | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 2-acetamido-5-(4-fluorophenyl)- 3-thiophenecarboxamide | C(C)(=O)NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)F | C13H11FN2O2S
